US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-4-chloro-6-methyl-imidazo[4,5-d]pyridazin-7(6H)-one
In DMF (15 ml) was dissolved 1-[4-(4-chlorobenzoyl)benzyl]-4-chloroimidazo[4,5-d]pyridazin-7(6H)-one (963 mg) followed by addition of potassium carbonate (985 mg). Then, methyl iodide (0.45 ml) was added and the mixture was stirred at room temperature for 65 hours. To this reaction mixture was added water (50 ml) and the resulting crystals were harvested by filtration. This crystal crop was purified by silica gel column chromatography (stationary phase 30 g; dichloromethane: ether=1:0-3:1) to provide 655 mg (66%) of the title compound. 1H-NMR (CDCl3) δ: 3.86(3H,s), 5.81(2H,s), 7.45(2H,d,J=7.8Hz), 7.46(2H,d,J=8.6Hz), 7.73(2H,d,J=8.6Hz), 7.78(2H,d,J=8.2Hz), 8.01(1H,s).

reactant | 1-[4-(4-chlorobenzoyl)benzyl]-4-chloroimidazo[4,5-d]pyridazin-7(6H)-one | 963 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=C3C(NN=C4Cl)=O)C=C2)C=C1 | C19H12Cl2N4O2
reactant | potassium carbonate | 985 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.45 ml | CI | CH3I
reactant | water | 50 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-Chlorobenzoyl)benzyl]-4-chloro-6-methyl-imidazo[4,5-d]pyridazin-7(6H)-one | 655 mg, 66% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=C3C(N(N=C4Cl)C)=O)C=C2)C=C1 | C20H14Cl2N4O2
